US04719047
Using the reductive amination procedure outlined in 1, 4,5-dichloro-9-anthracenecarbaldehyde and 2-methyl-2-amino-1,3-propanediol (Aldrich) gave 2-((4,5-dichloro-9-anthracenylmethyl)amino)-2-methyl-1,3-propanediol hydrochloride mp 239.5°-240.5° (dec), (EtOH/Et2O), (C,H,Cl,N).

reactant | 4,5-dichloro-9-anthracenecarbaldehyde | ClC1=CC=CC2=C(C3=CC=CC(=C3C=C12)Cl)C=O | C15H8Cl2O
reactant | 2-methyl-2-amino-1,3-propanediol | CC(CO)(CO)N | C4H11NO2
product | 2-((4,5-dichloro-9-anthracenylmethyl)amino)-2-methyl-1,3-propanediol hydrochloride | Cl.ClC1=CC=CC2=C(C3=CC=CC(=C3C=C12)Cl)CNC(CO)(CO)C | InChI=1S/C19H19Cl2NO2.ClH/c1-19(10-23,11-24)22-9-16-12-4-2-6-17(20)14(12)8-15-13(16)5-3-7-18(15)21;/h2-8,22-24H,9-11H2,1H3;1H
